US05550149
1,2,3,4-Tetrahydro-2-[7-[3-[2-(1H-imidazol-1-yl)-ethoxy]-4-methoxyphenyl]-7-[(4-methylphenyl)thio]heptyl]-6,7-dimethoxyisoquinoline
To 0.76 g of imidazole in 5 mL of 4A sieve-dried N,N-dimethylformamide is added 0.18 g of 60% sodium hydride in oil. When the effervescence subsides, 0.26 g of sodium iodide is added, followed by 1.12 g of 2-[7-[3-(2-chloroethoxy)-4-methoxyphenyl)-7-[(4-methylphenyl)thio]heptyl]-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline in 5 mL of N,N-dimethylformamide. An additional 2 mL of N,N-dimethylformamide is used as wash. After letting the tan solution stand for 48 hours, it is concentrated in vacuo, and the residue is distributed between ethyl acetate and water. The organic layer is extracted with 1N hydrochloric acid, the acid layer basified with aqueous ammonia, and the resulting oil extracted into ethyl acetate. After drying (sodium sulfate), the extract is concentrated in vacuo to 0.53 g of tan oil. Flash chromatography of the oil on silica gel (gradient elution: hexane to chloroform to methyl alcohol) gives an oil which is taken up in ethyl acetate, passed through a pad of hydrous magnesium silicate, and concentrated to leave 0.194 g of the desired product as a yellow gum.

reactant | imidazole | 0.76 g | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 0.18 g | [H-].[Na+]
reactant | sodium iodide | 0.26 g | [I-].[Na+]
reactant | 2-[7-[3-(2-chloroethoxy)-4-methoxyphenyl)-7-[(4-methylphenyl)thio]heptyl]-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline | 1.12 g | ClCCOC=1C=C(C=CC1OC)C(CCCCCCN1CC2=CC(=C(C=C2CC1)OC)OC)SC1=CC=C(C=C1)C | C34H44ClNO4S
reactant | magnesium silicate | [Si]([O-])([O-])([O-])[O-].[Mg+2].[Mg+2]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 1,2,3,4-Tetrahydro-2-[7-[3-[2-(1H-imidazol-1-yl)-ethoxy]-4-methoxyphenyl]-7-[(4-methylphenyl)thio]heptyl]-6,7-dimethoxyisoquinoline | 0.194 g | N1(C=NC=C1)CCOC=1C=C(C=CC1OC)C(CCCCCCN1CC2=CC(=C(C=C2CC1)OC)OC)SC1=CC=C(C=C1)C | C37H47N3O4S
